US07462639B2
N-[3-(7,7-Dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-5-methyl-1H-pyrazol-4-yl]-acetamide
N-[3-(7,7-Dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-5-methyl-1H-pyrazol-4-yl]-acetamide was prepared using 2-(4-amino-5-methyl-1H-pyrazol-3-yl)-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (60 mg, 0.21 mmol) and acetyl chloride. The title compound was obtained as white powder (3.7 mg).

reactant | 2-(4-amino-5-methyl-1H-pyrazol-3-yl)-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.21 mmol, 60 mg | NC=1C(=NNC1C)C1=NC=2C(=CC=3C(C(NC3C2)=O)(C)C)N1 | C15H16N6O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-[3-(7,7-Dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-5-methyl-1H-pyrazol-4-yl]-acetamide | CC1(C(NC=2C=C3C(=CC12)NC(=N3)C3=NNC(=C3NC(C)=O)C)=O)C | C17H18N6O2
